US06043248
Methyl magnesium bromide in ether (8.1 ml, 24.3 mmole) is dissolved in 16 ml tetrahydrofuran in an oven dried 100 ml two neck round bottom flask under nitrogen. The solution is cooled to 0° C., is diluted with 8 ml diethyl ether, and is treated with 1-isoquinoline carbonitrile (3.0 g, 19.5 mmole). The reaction is warmed to reflux for one hour, is cooled to 0° C., and is quenched with 20 ml 6 M hydrochloric acid. The reaction mixture is warmed to 50° C. for two hours, is cooled, and is poured into 75 ml 2N sodium hydroxide. The mixture is extracted with 3×80 ml ethyl acetate and the combined organics are dried over potassium carbonate. The dried organics are concentrated in vacuo to a crude amber oil. The crude material is chromatographed over 150 g silica gel (230-400 mesh), eluting with 10% acetone/hexane, while collecting 22 ml fractions. Fractions 16-26 are combined and concentrated to provide 2.1 g (62%) of 1-acetylisoquinoline.

reactant | Methyl magnesium bromide | C[Mg]Br
reactant | ether | 24.3 mmole, 8.1 ml | CCOCC | C4H10O
reactant | 1-isoquinoline carbonitrile | 19.5 mmole, 3.0 g | C1(=NC=CC2=CC=CC=C12)C#N | C10H6N2
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 1-acetylisoquinoline | 2.1 g, 62% | C(C)(=O)C1=NC=CC2=CC=CC=C12 | C11H9NO
